US07989633B2
Propyl 2,6-dimethyl-5-[4-(trifluoromethyl)benzoyl]-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate
164 mg (0.87 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde are dissolved with 125 mg (0.87 mmol) of n-propyl 3-oxobutanoate, 200 mg (0.87 mmol) of 3-amino-1-[4-(trifluoromethyl)phenyl]but-2-en-1-one and 5 μl (0.087 mmol) of acetic acid in 8 ml of 2-propanol and heated under reflux under argon for 30 h. The solvent is removed in vacuo, and the residue is purified by preparative HPLC. 60 mg (13% of theory) of the title compound are obtained as a yellow solid.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 0.87 mmol, 164 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | n-propyl 3-oxobutanoate | 0.87 mmol, 125 mg | O=C(CC(=O)OCCC)C | C7H12O3
reactant | 3-amino-1-[4-(trifluoromethyl)phenyl]but-2-en-1-one | 0.87 mmol, 200 mg | NC(=CC(=O)C1=CC=C(C=C1)C(F)(F)F)C | C11H10F3NO
reactant | acetic acid | 0.087 mmol, 5 μl | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 8 ml | CC(C)O | C3H8O
product | Propyl 2,6-dimethyl-5-[4-(trifluoromethyl)benzoyl]-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate | CC=1NC(=C(C(C1C(=O)OCCC)C=1C=CC=C2C(C=C(OC12)C)=O)C(C1=CC=C(C=C1)C(F)(F)F)=O)C | C29H26F3NO5
